US04383945
To a solution of (3R,4R)-3-benzyloxycarbonylamino-4-(2-oxoethyl)azetidin-2-one (850 mg) in methanol (17 ml) was added sodium borohydride (123 mg) at 0° C. and the mixture was stirred for 15 minutes at 0° C. Acetic acid (0.37 ml) was added to the mixture at 0° C. After stirring for 15 minutes at 0° C., the mixture was evaporated in vacuo. The residue was chromatographed on silica gel (17 g) eluting with a mixture of methylene chloride and methanol (20:1-10:1) to give a crystalline solid. This crude crystals were washed with ether and dried over phosphorous pentoxide to give (3R,4R)-3-benzyloxycarbonylamino-4-(2-hydroxyethyl)azetidin-2-one (748 mg). mp. 120°-121° C.

reactant | (3R,4R)-3-benzyloxycarbonylamino-4-(2-oxoethyl)azetidin-2-one | 850 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]1C(N[C@@H]1CC=O)=O | C13H14N2O4
reactant | sodium borohydride | 123 mg | [BH4-].[Na+]
reactant | Acetic acid | 0.37 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 17 ml | CO | CH4O
product | (3R,4R)-3-benzyloxycarbonylamino-4-(2-hydroxyethyl)azetidin-2-one | 748 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]1C(N[C@@H]1CCO)=O | C13H16N2O4
